US07399778B2
1-(1-Benzyl-1H-1,2,4-triazol-5-yl)ethanol was synthesized in a manner similar to that of procedure 21B but using 1-(phenylmethyl)-1H-1,2,4-triazole and acetaldehyde as the starting materials. The product was isolated as a white solid in 86% yield.

reactant | 1-(phenylmethyl)-1H-1,2,4-triazole | C1(=CC=CC=C1)CN1N=CN=C1 | C9H9N3
reactant | acetaldehyde | C(C)=O | C2H4O
product | 1-(1-Benzyl-1H-1,2,4-triazol-5-yl)ethanol | 86% yield | C(C1=CC=CC=C1)N1N=CN=C1C(C)O | C11H13N3O
